US05143920
3-Butyryl-4-chloro-8-methoxyquinoline (2.64 g, 10 mmol), 2-chloro-4-aminophenol (1.58 g, 11 mmol) and 1,4-dioxan (20 ml) were warmed briefly to reflux, cooled, and the solid filtered off. Recrystallisation from pyridine gave 3-butyryl-4-(3-chloro-4-hydroxyphenylamino)-8methoxyquinoline hydrochloride (1.40 g, 34%), m.p. 267°-269° (dec).

reactant | 3-Butyryl-4-chloro-8-methoxyquinoline | 10 mmol, 2.64 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 2-chloro-4-aminophenol | 11 mmol, 1.58 g | ClC1=C(C=CC(=C1)N)O | C6H6ClNO
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(3-chloro-4-hydroxyphenylamino)-8methoxyquinoline hydrochloride | 1.40 g, 34% | Cl.C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=CC(=C(C=C1)O)Cl)OC | InChI=1S/C20H19ClN2O3.ClH/c1-3-5-16(24)14-11-22-20-13(6-4-7-18(20)26-2)19(14)23-12-8-9-17(25)15(21)10-12;/h4,6-11,25H,3,5H2,1-2H3,(H,22,23);1H
